US07652057B2
To a solution of 2-phenyl-1,2,4,5,6,7-hexahydro-indazol-3-one (0.1 g) in DMF (1 mL) was added iodoethane (0.073 mL) and the mixture was placed into a pressure bomb and sealed. The reaction vessel was then heated in an oil bath to 100° C. over three days. The reaction vessel was then cooled and the DMF was evaporated in vacuo. The residue was dissolved in EtOAc and saturated and washed with saturated sodium bicarbonate solution. The phases were separated and the aqueous solution was extracted with EtOAc another two times at neutral pH. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo to afford a crude residue. Flash column chromatography over silica gel using ISCO combiflash chromatography and eluting with EtOAc/heptane and 3% AcOH afforded the desired 1-ethyl-2-phenyl-1,2,4,5,6,7-hexahydro-indazol-3-one (0.084 g) as a light brown solid. MS (ESI+): MS (ESI+): 243.4 [M+H]+).

reactant | 2-phenyl-1,2,4,5,6,7-hexahydro-indazol-3-one | 0.1 g | C1(=CC=CC=C1)N1NC=2CCCCC2C1=O | C13H14N2O
reactant | iodoethane | 0.073 mL | ICC | C2H5I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-2-phenyl-1,2,4,5,6,7-hexahydro-indazol-3-one | 0.084 g | C(C)N1N(C(C=2CCCCC12)=O)C1=CC=CC=C1 | C15H18N2O
